US08058299B2
To a suspension of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-piperazin-1-yl-pyridin-3-yl)-amide hydrochloride salt (65 mg, 0.13 mmol) in methylene chloride (5 mL) was added triethylamine (0.15 mL). The mixture was cooled in an ice bath and acetyl chloride (12 □L) was added. The mixture was stirred at room temperature for 30 minutes and partitioned between methylene chloride and brine. The organic layer was dried over sodium sulfate and the solvents were evaporated. The residue was first dried in vacuum and then triturated with methanol (3 mL) to give 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(4-acetyl-piperazin-1-yl)-pyridin-3-yl]-amide (21 mg) as a solid. LC-MS calcd for C22H20F3N5O3 (m/e) 459.2, obsd 460.0 (M+H). The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (6-piperazin-1-yl-pyridin-3-yl)-amide hydrochloride salt | 0.13 mmol, 65 mg | Cl.N1(CCNCC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1
reactant | triethylamine | 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(4-acetyl-piperazin-1-yl)-pyridin-3-yl]-amide | 21 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C22H20F3N5O3
